US09079825B2
To a −78° C. solution of acetonitrile (240 uL, 4.6 mmol) in THF under argon was added a solution of LDA (2.2 mL of a 2M solution in heptane/THF/ethylbenzene, 4.4 mmol). The resulting mixture was stirred at −78° C. for 30 min. In a separate flask, a solution of 3-(7-oxabicyclo[4.1.0]heptan-1-ylmethoxy)benzaldehyde (0.90 g, 4.1 mmol) in THF was cooled to −78° C. under argon. The freshly made lithium acetonitrile solution described above was added dropwise. The reaction mixture was stirred at −78° C. for 30 min then allowed to warm to room temperature overnight. The mixture was quenched with the addition of brine followed by 1M HCl (4 mL). The layers were separated and the aqueous layer was extracted with EtOAc. The combined organics were dried over MgSO4 and concentrated under reduced pressure. Purification by flash chromatography (10 to 75% EtOAc-hexanes gradient) gave 3-(3-(7-oxabicyclo[4.1.0]heptan-1-ylmethoxy)phenyl)-3-hydroxypropane-nitrile as an oil. Yield (0.340 g, 32%): 1H NMR (400 MHz, CDCl3) δ 7.30 (t, J=8.0 Hz, 1H), 6.88-6.91 (m, 3H), 5.01 (br s, 1H), 3.92-4.02 (m, 2H), 3.01 (d, J=2.0 Hz, 1H), 2.76 (d, J=6.4 Hz, 2H), 2.34 (br s, 1H), 1.84-2.05 (m, 4H), 1.42-1.56 (m, 2H), 1.24-1.40 (m, 2H).

reactant | acetonitrile | 4.6 mmol, 240 uL | C(C)#N | C2H3N
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 3-(7-oxabicyclo[4.1.0]heptan-1-ylmethoxy)benzaldehyde | 4.1 mmol, 0.90 g | C12(CCCCC2O1)COC=1C=C(C=O)C=CC1 | C14H16O3
reactant | lithium acetonitrile | C(C)#N.[Li]
solvent | THF | C1CCOC1 | C4H8O
solvent | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
product | 3-(3-(7-oxabicyclo[4.1.0]heptan-1-ylmethoxy)phenyl)-3-hydroxypropane-nitrile | C12(CCCCC2O1)COC=1C=C(C=CC1)C(CC#N)O | C16H19NO3
